US06858638B2
N-[3-(4-Methoxyphenyl)-1H-indazol-5-yl]-2-methylbenzenesulfonamide can be prepared as in Example 2 from 2.3 g of 5-amino-3-(4-methoxyphenyl)-1H-indazole, 0.94 ml of pyridine, 50 ml of tetrahydrofuran and 2.93 g of 2-methylsulfonylbenzenesulfonyl chloride. 1.62 g of N-[3-(4-methoxyphenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide are thus obtained in the form of a pale yellow solid melting at 244° C. (analysis C21H19N3O5S2 % calculated C, 55.13; H, 4.19; N, 9.18; O, 17.48; S, 14.02. % found C, 54.71; H, 4.19; N, 9.18; S, 13.87).

reactant | N-[3-(4-Methoxyphenyl)-1H-indazol-5-yl]-2-methylbenzenesulfonamide | COC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)C | C21H19N3O3S
reactant | 5-amino-3-(4-methoxyphenyl)-1H-indazole | 2.3 g | NC=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)OC | C14H13N3O
reactant | pyridine | 0.94 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-methylsulfonylbenzenesulfonyl chloride | 2.93 g | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO4S2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-[3-(4-methoxyphenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide | 1.62 g | COC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C21H19N3O5S2
